US08912209B2
Intermediate 2: {1-[2-Bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]ethyl}-carbamic acid tert-butyl ester
To a solution of 3-bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid (7496 to 61011 μmol) in DMF (10 to 30 ml) were added DIEA (2 eq.), TBTU (1.3 eq.) and HOBt (0.3 eq.). The reaction mixture was stirred at RT for 5 minutes. 4-Aminopyridine (1.5 eq) was added and the reaction mixture was stirred at RT for 2.5 hours up to overnight. When there was still starting material observed, more DIEA (0.39 eq), TBTU (0.25 eq), HOBt (0.06 eq) and 4-aminopyridine (0.28 eq) were added and the reaction mixture was stirred at RT for another 2 hours. The reaction mixture was diluted with EtOAc, washed with 0.1 M HCl and saturated Na2CO3 or with saturated NaHCO3. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | 3-bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid | 7496 to 61011 μmol | BrC=1C=C(C(=O)O)C=CC1C(C)NC(=O)OC(C)(C)C | C14H18BrNO4
reactant | DIEA | 2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 1.3 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.3 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-Aminopyridine | 1.5 eq | NC1=CC=NC=C1 | C5H6N2
reactant | DIEA | 0.39 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 0.25 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.06 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-aminopyridine | 0.28 eq | NC1=CC=NC=C1 | C5H6N2
solvent | DMF | 10 to 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {1-[2-Bromo-4-(pyridine-4-ylcarbamoyl)-phenyl]ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=CC=NC=C1)=O)Br)=O | C19H22BrN3O3
